US06342598B1
D) Glycine [2-(dioctadecylamino)-2-oxoethyl) ester hydrochloride
10% Pd/C (150 mg) was added to a solution of N-((phenylmethoxy)-carbonyl]glycine[2-(dioctadecylamino)-2-oxoethyl] ester (1.2 g; 1.4 mmol) in EtOAc (100 mL) and the suspension was stirred for 3 h under hydrogen atmosphere at room temperature. After filtration (through a Millipore® filter FT 0.45 μm) 1.2 M HCl in MeOH (1.3 mL; 1.6 mmol) was added dropwise to the resulting solution obtaining the precipitation of a white solid that was filtered to give the desired compound (830 mg; 1.2 mmol). Yield 86%. HPLC: 100% (area %). K.F.: 0.22%. The MS and IR spectra were consistent with the structure.

reactant | N-((phenylmethoxy)-carbonyl]glycine[2-(dioctadecylamino)-2-oxoethyl] ester | 1.4 mmol, 1.2 g | C(CCCCCCCCCCCCCCCCC)N(C(COC(CNC(=O)OCC1=CC=CC=C1)=O)=O)CCCCCCCCCCCCCCCCCC | C48H86N2O5
reactant | HCl | 1.2 M | Cl | ClH
reactant | MeOH | 1.6 mmol, 1.3 mL | CO | CH4O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 150 mg | [Pd] | Pd
product | Glycine [2-(dioctadecylamino)-2-oxoethyl) ester hydrochloride | 1.2 mmol, 830 mg, Yield 86% | Cl.C(CCCCCCCCCCCCCCCCC)N(C(COC(CN)=O)=O)CCCCCCCCCCCCCCCCCC | InChI=1S/C40H80N2O3.ClH/c1-3-5-7-9-11-13-15-17-19-21-23-25-27-29-31-33-35-42(39(43)38-45-40(44)37-41)36-34-32-30-28-26-24-22-20-18-16-14-12-10-8-6-4-2;/h3-38,41H2,1-2H3;1H
